US05965589
Titanium tetrachloride (3.67 g) was added dropwise to a solution of 5-[2-(4-isopropoxyphenyl)ethyl]-2,4-thiazolidinedione (1.35 g) in dichloromethane (70 ml) at 0° C. After stirring for 2 hours, the mixture was poured into ice-cooled water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate-hexane (1:3, v/v) gave 5-[2-(4-hydroxyphenyl)ethyl]-2,4-thiazolidinedione (0.72 g, 63%). This product was recrystallized from acetone-isopropyl ether. Colorless prisms, mp: 175-176° C.

reactant | 5-[2-(4-isopropoxyphenyl)ethyl]-2,4-thiazolidinedione | 1.35 g | C(C)(C)OC1=CC=C(C=C1)CCC1C(NC(S1)=O)=O | C14H17NO3S
reactant | water | O | H2O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 3.67 g | [Ti](Cl)(Cl)(Cl)Cl
product | 5-[2-(4-hydroxyphenyl)ethyl]-2,4-thiazolidinedione | 0.72 g, 63% | OC1=CC=C(C=C1)CCC1C(NC(S1)=O)=O | C11H11NO3S
